US04260816
4-[N-Trifluoroacetyl-2-(1-naphthyloxy)ethylamino]benzoic acid
To 14 ml. of trifluoroacetic anhydride in 25 ml. of tetrahydrofuran is added 4-[2-(1-naphthyloxy)ethylamino]benzoic acid. After one hour, the solution is poured into ice water and the mixture is extracted twice with 100 ml. methylene chloride. The extract is dried and evaporated to dryness. The residue is chromatographed on silica with ether and ethyl acetate. The material isolated melts at 167°-168° C.

reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 4-[2-(1-naphthyloxy)ethylamino]benzoic acid | C1(=CC=CC2=CC=CC=C12)OCCNC1=CC=C(C(=O)O)C=C1 | C19H17NO3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-[N-Trifluoroacetyl-2-(1-naphthyloxy)ethylamino]benzoic acid | FC(C(=O)N(C1=CC=C(C(=O)O)C=C1)CCOC1=CC=CC2=CC=CC=C12)(F)F | C21H16F3NO4
